US05821246
Using an analogous procedure to that described in the first paragraph of the portion of Example 8 which is concerned with the preparation of starting materials, 3-chloro-4-fluoronitrobenzene was reacted with 3-methyl-2-pyridinethiol to give 2-chloro-4-nitrophenyl 3-methylpyrid-2-yl sulphide in 50% yield.

reactant | 3-chloro-4-fluoronitrobenzene | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | 3-methyl-2-pyridinethiol | CC=1C(=NC=CC1)S | C6H7NS
product | 2-chloro-4-nitrophenyl 3-methylpyrid-2-yl sulphide | 50% yield | CC=1C(=NC=CC1)SC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C12H9ClN2O2S
